US07199105B2
Preparation of 4-(3,3-Difluoro-propyl)-1-(2-hydroxy-ethyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
Ethylene oxide (0.4 mL) was added to a solution of 4-(3,3-difluoro-propyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide, prepared as in Example 14 (29.7 mg, 0.07 mmol), in methanol (2 mL), at 0° C. The reaction mixture was stirred at 4° C. overnight. Additional ethylene oxide (0.4 mL) was added and stirred at 4° C. overnight. The reaction mixture was concentrated and purified by chromatography to give the title compound as a white solid (19.3 mg, 59%).

reactant | Ethylene oxide | 0.4 mL | C1CO1 | C2H4O
reactant | 4-(3,3-difluoro-propyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCC(F)F)C | C18H32F2N2O5S
reactant | ethylene oxide | 0.4 mL | C1CO1 | C2H4O
solvent | methanol | 2 mL | CO | CH4O
product | 4-(3,3-Difluoro-propyl)-1-(2-hydroxy-ethyl)-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 19.3 mg, 59% | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCC(F)F)CCO)C | C20H36F2N2O6S
